US05247085
Diethyl (S)-[1-(t-butyldiphenylsilyloxymethyl)-2-hydroxyethoxy]methylphosphonate
To a solution of diethyl (S)-[2-benzyloxy-1-(t-butyldiphenylsilyloxymethyl)ethoxy]methylphosphonate (1.90 g, 3.3 mmol) in ethanol (20 ml) containing a trace of methanol/HCl (10 drops), was added 10%Pd-C (1.2 g). The mixture was shaken under an atmosphere of hydrogen at ambient temperature and atmospheric pressure until hydrogen uptake was complete and t.l.c. (SiO2, CH2Cl2 -MeOH, 95:5) indicated no starting material remained. The reaction mixture was filtered, the filtrate evaporated and the residue obtained chromatographed on silica gel (dichloromethanemethanol, 95:5 as eluant) to give the title compound as a colourless oil (1.35 g, 84%).

reactant | diethyl (S)-[2-benzyloxy-1-(t-butyldiphenylsilyloxymethyl)ethoxy]methylphosphonate | 3.3 mmol, 1.90 g | C(C1=CC=CC=C1)OC[C@H](OCP(OCC)(OCC)=O)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C31H43O6PSi
reactant | hydrogen | [H][H] | H2
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | methanol HCl | 10 drops | CO.Cl
catalyst | Pd-C | 1.2 g | [Pd] | Pd
product | Diethyl (S)-[1-(t-butyldiphenylsilyloxymethyl)-2-hydroxyethoxy]methylphosphonate | 1.35 g, 84% | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](CO)OCP(OCC)(OCC)=O | C24H37O6PSi
